US06121307
[2-(2-Methoxy-phenoxy-ethyl]-benzyl-carbamic acid tert-butyl ester
To a solution of (2-hydroxy-ethyl)-benzyl-carbamic acid tert-butyl ester (3.2 g, 12.6 mmol) and 2-methoxy phenol (1.0 g, 8.4 mmol) containing triphenylphosphine (3.3 g, 12.6 mmol) in anhydrous tetrahydrofuran (40 ml) was slowly added diisopropyl azodicarboxylate (2.5 g, 12.6 mmol). The reaction was allowed to stir for 18 hours, then poured into methylene chloride (250 ml) and washed with 1N sodium hydroxide (3×80 ml), dried over anhydrous magnesium sulfate, filtered and concentrated to a clear oil. The oil was dissolved in ether (70 ml) and hexanes were slowly added until the triphenylphosphine oxide precipitated. The solid was filtered and the solvent removed. The thick oil was then purified by column chromatography (15% ethyl aceate-hexanes) to afford 2.57 g (57.0%) of a clear oil: MS (EI) 358 m/e (M+).

reactant | (2-hydroxy-ethyl)-benzyl-carbamic acid tert-butyl ester | 12.6 mmol, 3.2 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)CCO)=O | C14H21NO3
reactant | 2-methoxy phenol | 8.4 mmol, 1.0 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | triphenylphosphine | 12.6 mmol, 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 12.6 mmol, 2.5 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Methoxy-phenoxy-ethyl]-benzyl-carbamic acid tert-butyl ester | 2.57 g, 57.0% | C(C)(C)(C)OC(NCC1=C(C=CC=C1)CCOC1=C(C=CC=C1)OC)=O | C21H27NO4
